US07645776B2
6-Chloro-3-hydroxy-pyridazine-4-carboxylic acid
2 mmol of 3,6-Dichloropyridazine-4-carboxylic acid are treated with 8 ml of aqueous 2N NaOH and refluxed for 1 h. The reaction mixture was acidified to pH=1. The resulting white solid was filtered off and dried under vacuum. MS(ISO): 173.2 (M−H+)

reactant | 3,6-Dichloropyridazine-4-carboxylic acid | 2 mmol | ClC=1N=NC(=CC1C(=O)O)Cl | C5H2Cl2N2O2
reactant | NaOH | 2N | [OH-].[Na+]
product | 6-Chloro-3-hydroxy-pyridazine-4-carboxylic acid | ClC1=CC(=C(N=N1)O)C(=O)O | C5H3ClN2O3
